US05157026
2-Ethyl-5-(hydroxymethyl)-7-methyl-3-(2'-(tetrazol-5-yl)biphen-4-yl)methyl-3H-imidazo[4,5-b]pyridine
To 5-(ethoxycarbonyl)-2-ethyl-7-methyl-3-(2'-(tetrazol-5-yl)biphen-4-yl)methyl-3H-imidazo[4,5-b]pyridine (50 mg) in THF (1 mL) at -78° C. was added Diisobutylaluminum hydride (0.534 mL, 1M/THF). After 1 hour at -78° C., the mixture was warmed to RT and 1% aqueous HOAc (2 mL) was added. Extractive workup (EtOAc), and purification (SiO2, 80/20/1 CH2Cl2 /MeOH/NH4OH) gave 28 mg of a solid.

reactant | 5-(ethoxycarbonyl)-2-ethyl-7-methyl-3-(2'-(tetrazol-5-yl)biphen-4-yl)methyl-3H-imidazo[4,5-b]pyridine | 50 mg | C(C)OC(=O)C1=CC(=C2C(=N1)N(C(=N2)CC)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2)C | C26H25N7O2
reactant | Diisobutylaluminum hydride | 1M, 0.534 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | HOAc | 2 mL | CC(=O)O | C2H4O2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-Ethyl-5-(hydroxymethyl)-7-methyl-3-(2'-(tetrazol-5-yl)biphen-4-yl)methyl-3H-imidazo[4,5-b]pyridine | 28 mg | C(C)C1=NC=2C(=NC(=CC2C)CO)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C24H23N7O
